US09238640B2
Preparation of 2-(6-(4-(Benzylamino)piperidin-1-yl)pyridin-3-yl)-5,7-dimethoxyquinazolin-4(3H)-one
A solution of N-benzyl-N-(1-(5-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)pyridin-2-yl)piperidin-4-yl)acetamide (0.200 g, 0.39 mmol) in 2 N HCl (15 mL) was refluxed for 3 days. The resulting mixture was basified with 2 N NaOH and extracted with CH2Cl2. The organics were washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. Purification by flash chromatography on silica gel, eluting with 10% to 100% of 92:7:1 CHCl3/MeOH/concentrated NH4OH in CH2Cl2, afforded the title compound (0.110 g, 60%) as a white solid. 1H NMR (300 MHz, DMSO-d6): δ 11.11 (br s, 1H), 8.89 (d, J=2.3 Hz, 1H), 8.22-8.26 (m, 1H), 7.28-7.37 (m, 4H), 7.18-7.23 (m, 1H), 6.91 (d, J=7.2 Hz, 1H), 6.67 (d, J=2.2 Hz, 1H), 6.46 (d, J=2.2 Hz, 1H), 4.27-4.31 (m, 2H), 3.88 (s, 3H), 3.83 (s, 3H), 3.76 (s, 2H), 3.00-3.11 (m, 2H), 2.62-2.69 (m, 1H), 1.88-1.91 (m, 2H), 1.25-1.31 (m, 2H). ESI MS m/z 472 [M+H]+.

reactant | N-benzyl-N-(1-(5-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)pyridin-2-yl)piperidin-4-yl)acetamide | 0.39 mmol, 0.200 g | C(C1=CC=CC=C1)N(C(C)=O)C1CCN(CC1)C1=NC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C29H31N5O4
reactant | NaOH | 2 N | [OH-].[Na+]
solvent | HCl | 2 N, 15 mL | Cl | ClH
product | 2-(6-(4-(Benzylamino)piperidin-1-yl)pyridin-3-yl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.110 g, 60% | C(C1=CC=CC=C1)NC1CCN(CC1)C1=CC=C(C=N1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C27H29N5O3
